US04919848
53.6 g of naphthalene-1,4,5,8-tetracarboxylic acid dianhydride (0.2 mol) or 60.8 g of naphthalene-1,4,5,8-tetracarboxylic acid (0.2 mol) are dissolved in 1 l of water at 90° C. with addition of 84 g of triethylamine (0.9 mol), treated with 18.6 g of aniline (0.2 mol) with stirring and adjusted to pH 6 by dropwise addition of about 20 ml of glacial acetic acid at 90° C. The mixture is stirred for about 8 hours at 90° C., the pH value being maintained between 7 and 6 by further dropwise addition of glacial acetic acid (6 ml in total). The mixture is cooled to room temperature, a few undissolved components are filtered off, and the filtrate is adjusted to pH 1 by dropwise addition of about 160 ml of concentrated hydrochloric acid. The crystalline precipitate is filtered off by suction, washed with water until the washings have pH 5, and dried at 70° C. in vacuo. 63 g (87% of theory) of naphthalene-1,4,5,8-tetracarboxylic acid monophenylimide are obtained as an almost colourless crystalline powder of melting point >300° C.

reactant | naphthalene-1,4,5,8-tetracarboxylic acid | 0.2 mol, 60.8 g | C1(=CC=C(C=2C(=CC=C(C12)C(=O)O)C(=O)O)C(=O)O)C(=O)O | C14H8O8
reactant | triethylamine | 0.9 mol, 84 g | C(C)N(CC)CC | C6H15N
reactant | aniline | 0.2 mol, 18.6 g | NC1=CC=CC=C1 | C6H7N
reactant | acetic acid | about 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | 1 l | O | H2O
product | naphthalene-1,4,5,8-tetracarboxylic acid monophenylimide | 63 g, 87% | C1(=CC=CC=C1)N=C(O)C1=CC=C(C=2C(=CC=C(C12)C(=O)O)C(=O)O)C(=O)O | C20H13NO7
